US08420823B2
1-{[3-(chloromethyl)phenyl]sulfonyl}piperidine
Phosphorus oxychloride (1.00 mL) was added to DMF (5.0 mL), and stirred at 80° C. for 30 minutes. A solution prepared by dissolving [3-(piperidin-1-ylsulfonyl)phenyl]methanol (2.00 g) obtained in Reference Example 21 in DMF (5.0 mL) was added to it, and stirred at 80° C. for 30 minutes. At 0° C., aqueous saturated sodium carbonate solution was added thereto, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine in that order, and dried with sodium sulfate. The drying agent was removed through filtration, and the solvent was evaporated off under reduced pressure. The residue was purified through silica gel column chromatography (ethyl acetate/hexane=from 0% to 50%, gradient) to give the entitled compound (1.26 g, 59%) as a colorless solid.

reactant | Phosphorus oxychloride | 1.00 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | [3-(piperidin-1-ylsulfonyl)phenyl]methanol | 2.00 g | N1(CCCCC1)S(=O)(=O)C=1C=C(C=CC1)CO | C12H17NO3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 1-{[3-(chloromethyl)phenyl]sulfonyl}piperidine | 1.26 g, 59% | ClCC=1C=C(C=CC1)S(=O)(=O)N1CCCCC1 | C12H16ClNO2S
